US05587379
A stirred mixture of 3.4 grams (0.010 mole) of 3-methylsulfonyloxy-5-(3-phenylphenyl)pentanenitrile, 3.4 grams (0.023 mole) of sodium iodide, 3.4 grams (0.052 mole) of zinc powder, and 3.4 mL of water in 50 mL of ethylene glycol dimethyl ether was heated at reflux for about 22 hours. The reaction mixture was cooled, and 150 mL of diethyl ether was added. The mixture was filtered, and the filtrate was washed in succession with water, an aqueous 5% hydrochloric acid solution, an aqueous 5% sodium bicarbonate solution, an aqueous 5% sodium bicarbonate solution, an aqueous 5% sodium thiosulfate solution, and finally with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. NMR analysis of the residual oil indicated that it was impure. The oil was dissolved in 10:1 petroleum ether and diethyl ether, and the solution was passed through a column of silica gel. Early fractions of eluate were combined and concentrated under reduced pressure, yielding an intermediate product, 5-(3-phenylphenyl)-2-pentenenitrile. Later fractions of the eluate were combined and concentrated under reduced pressure, yielding the intended product, 5-(3-phenylphenyl)pentanenitrile. The intermediate was hydrogenated in a manner analogous to that of Example 3, Step B, yielding an additional amount of 5-(3-phenylphenyl)pentanenitrile. All samples of the pentanenitrile were combined, yielding 1.4 grams of that product. The NMR spectrum was consistent with the proposed structure.

reactant | 3-methylsulfonyloxy-5-(3-phenylphenyl)pentanenitrile | 0.010 mole, 3.4 grams | CS(=O)(=O)OC(CC#N)CCC1=CC(=CC=C1)C1=CC=CC=C1 | C18H19NO3S
reactant | sodium iodide | 0.023 mole, 3.4 grams | [I-].[Na+]
reactant | water | 3.4 mL | O | H2O
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
catalyst | zinc | 0.052 mole, 3.4 grams | [Zn] | Zn
product | 5-(3-phenylphenyl)-2-pentenenitrile | C1(=CC=CC=C1)C=1C=C(C=CC1)CCC=CC#N | C17H15N
